US05270309
Using the method described in Example 15 with 3-aminobenzotrifluoride (40 g) and dimethylacetylene dicarboxylate (35 g) gave 5-trifluoromethyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid (0.04 g) m.p. 265°-267° C. (dec), δ (360 MHz, DMSO-d6) 6.65 and (1H, s, 3-H), 7.78 (2H, m, 7-H, 8-H), 8.26 (1H, d, 6-H) and 12.08 (1H, N-H).

reactant | 3-aminobenzotrifluoride | 40 g | NC=1C=C(C=CC1)C(F)(F)F | C7H6F3N
reactant | dimethylacetylene dicarboxylate | 35 g | COC(=O)C#CC(=O)OC | C6H6O4
product | 5-trifluoromethyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid | 0.04 g | FC(C1=C2C(C=C(NC2=CC=C1)C(=O)O)=O)(F)F | C11H6F3NO3
